US06410529B1
D33 6-Fluoroquinoline-4-carboxylic acid
6-Fluoroquinoline-2,4-dicarboxylic acid (14.2 g) in nitrobenzene (50 ml) was boiled for 30 min in a reaction vessel equipped with a Dean-Stark apparatus. The mixture was cooled to room temperature and the precipitated material triturated with 60-80 petroleum ether (500 ml). The solid precipitated title compound (10.50 g) was collected by filtration and dried in vacuao.

reactant | 6-Fluoroquinoline-2,4-dicarboxylic acid | 14.2 g | FC=1C=C2C(=CC(=NC2=CC1)C(=O)O)C(=O)O | C11H6FNO4
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 6-Fluoroquinoline-4-carboxylic acid | FC=1C=C2C(=CC=NC2=CC1)C(=O)O | C10H6FNO2
